US04496586
Aluminum (5.0 g, 0.18 mole), mercuric chloride (100 mg) and tetrahydrofuran (THF) (70 ml) were added to a reactor, and a solution of 3-bromo-1-butyne (20 g, 0.15 mole) in THF (20 ml) was added dropwise at 40° to 50° C. to prepare a Grignard reagent. Thereafter, to this THF solution of the Grignard reagent was added dropwise a solution of furfural (11.5 g, 0.12 mole) in THF (20 ml) at 20° to 30° C. over about 1 hour, followed by stirring at room temperature for further 2 hours. After completion of the reaction, the reaction solution was poured into an aqueous ammonium chloride solution (about 100 ml) and extracted with ether. The extract was washed with water, dried and concentrated. The residue obtained was distilled under reduced pressure to obtain 10.4 g (yield, 58%) of pure 1-(2-furyl)-2-methyl-3-butyn-1-ol having a boiling point of 75°-85° C./3 mmHg.

reactant | Aluminum | 0.18 mole, 5.0 g | [Al] | Al
reactant | 3-bromo-1-butyne | 0.15 mole, 20 g | BrC(C#C)C | C4H5Br
reactant | furfural | 0.12 mole, 11.5 g | C(C1=CC=CO1)=O | C5H4O2
reactant | ammonium chloride | about 100 ml | [Cl-].[NH4+]
solvent | THF | 20 ml | O1CCCC1 | C4H8O
solvent | THF | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 70 ml | O1CCCC1 | C4H8O
product | 1-(2-furyl)-2-methyl-3-butyn-1-ol | 10.4 g, 58% | O1C(=CC=C1)C(C(C#C)C)O | C9H10O2
